US09371359B2
(3S)-3-Amino-N-ethyl-2-hydroxy-4-phenylbutanamide hydrochloride
((1S)-1-benzyl-3-ethylamino-2-hydroxy-3-oxopropyl)carbamic acid 1,1-dimethylethyl ester (5.5 g, 17 mmol) was dissolved in 4N hydrochloric acid/dioxane solution (65 mL), and the solution was stirred at room temperature for 3 hours. This solution was concentrated in vacuo to quantitatively yield the title compound (4.4 g) as a white solid.

reactant | ((1S)-1-benzyl-3-ethylamino-2-hydroxy-3-oxopropyl)carbamic acid 1,1-dimethylethyl ester | 17 mmol, 5.5 g | CC(C)(C)OC(N[C@H](C(C(=O)NCC)O)CC1=CC=CC=C1)=O | C17H26N2O4
reactant | hydrochloric acid dioxane | 4N, 65 mL | Cl.O1CCOCC1
product | (3S)-3-Amino-N-ethyl-2-hydroxy-4-phenylbutanamide hydrochloride | 4.4 g | Cl.N[C@H](C(C(=O)NCC)O)CC1=CC=CC=C1 | InChI=1S/C12H18N2O2.ClH/c1-2-14-12(16)11(15)10(13)8-9-6-4-3-5-7-9;/h3-7,10-11,15H,2,8,13H2,1H3,(H,14,16);1H/t10-,11?;/m0./s1
